US07015218B1
To dimethylformamide solution (91 ml) containing 2-chloro-5-nitrobenzonitrile (18.2 g) and n-hexanol (11.2 g) was added sodium hydride (60% content, 4.8 g) under ice-cooling and the mixture was stirred for 1 h. The reaction mixture was added to water and extracted with toluene. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, after which the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (mobile phase: chloroform) to give 2-n-hexyloxy-5-nitrobenzonitrile (16.2 g). Then, ammonium chloride (0.2 g) and iron powder (1.6 g) were added to a mixed solvent of water (6.3 ml) and ethanol (17 ml), and the mixture was heated to 65° C. Then, the obtained ethanol solution (4 ml) containing 5-nitro-2-n-hexyloxybenzonitrile (16.2 g) was added dropwise thereto, and the mixture was stirred at a refluxing temperature for 30 min. The reaction mixture was ice-cooled and filtrated and the solvent was evaporated under reduced pressure. To the residue was added aqueous sodium hydroxide solution and the mixture was extracted with toluene. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate, after which the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (mobile phase: chloroform) to give the title compound (6.0 g).

reactant | dimethylformamide | 91 ml | CN(C=O)C | C3H7NO
reactant | 2-chloro-5-nitrobenzonitrile | 18.2 g | ClC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | n-hexanol | 11.2 g | C(CCCCC)O | C6H14O
reactant | sodium hydride | 4.8 g | [H-].[Na+]
solvent | water | O | H2O
product | 2-n-hexyloxy-5-nitrobenzonitrile | 16.2 g | C(CCCCC)OC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C13H16N2O3
